US04686230
After adding 15 ml of 2N sodium hydroxide solution, 4.8 g of 2-acetoxymethyl-3,4-dimethoxypyridine are stirred vigorously at 80° C., whereupon a homogeneous solution forms from the initial two-phase mixture. After 2 hours, the solution is allowed to cool and is extracted five times with 30 ml of methylene chloride each time, the combined organic phases are washed twice with 5 ml of 0.3N sodium hydroxide solution each time, dried over potassium carbonate, filtered and concentrated and the distillation residue is stirred with petroleum ether. 3.6 g (96% of theory) of 2-hydroxymethyl-3,4-dimethoxypyridine are obtained as a colourless solid of m.p. 87°-89° C.

reactant | sodium hydroxide | 2N, 15 ml | [OH-].[Na+]
reactant | 2-acetoxymethyl-3,4-dimethoxypyridine | 4.8 g | C(C)(=O)OCC1=NC=CC(=C1OC)OC | C10H13NO4
product | 2-hydroxymethyl-3,4-dimethoxypyridine | 3.6 g, 96% | OCC1=NC=CC(=C1OC)OC | C8H11NO3
